US07446184B2
Stage 1 Preparation of 2-((sulfomethyl)amino)benzoic acid
Formaldehyde solution (37%, 31.6 g, 0.4 mol) and sodium bisulfite (38 g, 0.37 mol) were dissolved in water (200 ml) and the stirred mixture warmed to 60° C. Anthranilic acid (50 g, 0.37 mol) was dissolved in water (200 ml) at pH 7, and this solution was added to the bisulfite adduct solution, maintaining the temperature at 60-70° C. for 2 hours. The reaction mixture was allowed to cool slowly before hydrochloric acid was added to precipitate the product as a white solid. The product was collected by filtration and washed with saturated sodium chloride solution and then acetone. The dried product (34 g) contained 22.5% salt.

reactant | Formaldehyde | 0.4 mol, 31.6 g | C=O | CH2O
reactant | sodium bisulfite | 0.37 mol, 38 g | S([O-])(O)=O.[Na+]
reactant | Anthranilic acid | 0.37 mol, 50 g | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
reactant | bisulfite | S([O-])(O)=O
reactant | hydrochloric acid | Cl | ClH
solvent | water | 200 ml | O | H2O
solvent | water | 200 ml | O | H2O
product | 2-((sulfomethyl)amino)benzoic acid | S(=O)(=O)(O)CNC1=C(C(=O)O)C=CC=C1 | C8H9NO5S
